// RLC damping design - Spectre netlist (output across C)
simulator lang=spectre
global 0

// Fast voltage step on `in` (edge << circuit natural period -> ideal step)
vin (in 0) vsource type=pulse val0=0 val1=1.8 delay=4.66926e-08 rise=1.8677e-10 fall=1.8677e-10 width=7.47081e-06 period=1.49416e-05

// Series RLC. R1 is the damping resistor to size; L1 and C1 are FIXED.
l1 (in mid) inductor l=4.7e-05
r1 (mid out) resistor r=1147.27
c1 (out 0) capacitor c=4.7e-12

// Transient: maxstep resolves the ring, stop captures the settling tail
tran tran stop=3.73541e-06 errpreset=conservative maxstep=4.66926e-10

save in out
